US05192768
4-Chloro-1,2-dihydro-1-propyl-2-oxo-3-quinolinecarbonitrile (Compound b)
In 10 ml of phosphorus oxychloride was refluxed 1.0 g (4.1 mmol) of 1,2-dihydro-4-hydroxy-1-propyl-2-oxo-3-quinolinecarbonitrile for 1 hour. The reaction mixture was dried under reduced pressure, and the residue was partitioned between chloroform and water. The chloroform layer was dried under reduced pressure to obtain 0.44 g (41%) of the titled compound as a yellow crystal.

reactant | 1,2-dihydro-4-hydroxy-1-propyl-2-oxo-3-quinolinecarbonitrile | 4.1 mmol, 1.0 g | OC1=C(C(N(C2=CC=CC=C12)CCC)=O)C#N | C13H12N2O2
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1,2-dihydro-1-propyl-2-oxo-3-quinolinecarbonitrile | 0.44 g, 41% | ClC1=C(C(N(C2=CC=CC=C12)CCC)=O)C#N | C13H11ClN2O
